US04111942
8-[5-(4-Fluorophenyl)-2-pentyl]-5,5-dimethyl-10-ureido-5H-[1]benzopyrano[4,3-c]pyridine (XI)
Potassium cyanate (1.22 g., 0.015 mole) was added to a stirred solution of 1.95 g. (0.005 mole) of 10-amino-8-[5-(4-fluorophenyl)-2-pentyl]-5,5-dimethyl-5H-[1]benzopyrano [4,3-c]pyridine in 20 ml. of glacial acetic acid. The mixture was stirred at room temperature for 18 hours and was diluted with 80 ml. of water. After cooling in an ice bath, the aqueous acetic acid solution was decanted, the residue was triturated with water, cooled, filtered, and recrystallized from acetonitrile, m.p. 179°-181°.

reactant | Potassium cyanate | 0.015 mole, 1.22 g | [O-]C#N.[K+]
reactant | 10-amino-8-[5-(4-fluorophenyl)-2-pentyl]-5,5-dimethyl-5H-[1]benzopyrano [4,3-c]pyridine | 0.005 mole | NC1=CC(=CC2=C1C=1C=NC=CC1C(O2)(C)C)C(C)CCCC2=CC=C(C=C2)F | C25H27FN2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 8-[5-(4-Fluorophenyl)-2-pentyl]-5,5-dimethyl-10-ureido-5H-[1]benzopyrano[4,3-c]pyridine | FC1=CC=C(C=C1)CCCC(C)C1=CC2=C(C(=C1)NC(=O)N)C=1C=NC=CC1C(O2)(C)C | C26H28FN3O2
